US08207205B2
Step 3: 3-(3,5-Dibromo-4-hydroxyphenyl)-N-ethyl-N-(3-(trifluormethyl)benzyl)-1,2,4-oxadiazole-5-carboxamide (compound 60)
3-(3,5-Dibromo-4-(4-methoxybenzyloxy)phenyl)-N-(3-(trifluoromethyl)benzyl)-1,2,4-oxadiazole-5-carboxamide (128 mg, 0.2 mmol) was dissolved in dimethylformamide (2 mL) and sodium-tert-butoxide (21 mg, 0.22 mmol) was added in one portion followed by ethyl iodide (34 mg, 0.22 mmol). The mixture was stirred at room temperature for 20 h and was then treated with water (8 mL) and extracted with ethyl acetate (4 mL). The extract was evaporated to dryness and the residue was dissolved in dichloromethane (2 mL), trifluoroacetic acid (0.2 mL) was added and the solution was allowed to stand for 1 h. Methanol (0.5 mL) was added, the solution was evaporated to dryness and the residue was purified by preparative HPLC to give the title compound (32.8 mg, 32%) as a colourless solid. 1H NMR δ (ppm) (DMSO-d6): 1.14 and 1.29 (3H, two t), 3.47 and 3.62 (2H, two q), 4.88 and 4.97 (2H, two s), 7.60-7.75 (3H, m), 7.78 and 7.89 (1H, two s), 8.04 and 8.15 (2H, two s), 10.9 (1H, s, br). LCMS (10 cm_apci_formic) tR 4.33 min; m/z 546/548/550 [M−H]−.

reactant | 3-(3,5-Dibromo-4-(4-methoxybenzyloxy)phenyl)-N-(3-(trifluoromethyl)benzyl)-1,2,4-oxadiazole-5-carboxamide | 0.2 mmol, 128 mg | BrC=1C=C(C=C(C1OCC1=CC=C(C=C1)OC)Br)C1=NOC(=N1)C(=O)NCC1=CC(=CC=C1)C(F)(F)F | C25H18Br2F3N3O4
reactant | sodium-tert-butoxide | 0.22 mmol, 21 mg | CC(C)([O-])C.[Na+]
reactant | ethyl iodide | 0.22 mmol, 34 mg | C(C)I | C2H5I
reactant | water | 8 mL | O | H2O
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 3-(3,5-Dibromo-4-hydroxyphenyl)-N-ethyl-N-(3-(trifluormethyl)benzyl)-1,2,4-oxadiazole-5-carboxamide | 32.8 mg, 32% | BrC=1C=C(C=C(C1O)Br)C1=NOC(=N1)C(=O)N(CC1=CC(=CC=C1)C(F)(F)F)CC | C19H14Br2F3N3O3
